US07842701B2
3-[3-(3-amino-4-oxo-4,5-dihydro-2H-pyrazolo[4,3-c]quinolin-2-yl)-2-methylphenoxy]propanoic acid
To a mixture of 3-amino-2-(3-hydroxy-2-methylphenyl)-2,5-dihydro-4H-pyrazolo[4,3-c]quinolin-4-one (100 mg), 1N aqueous sodium hydroxide solution (326 μl) and water (3 ml) was added dropwise γ-propiolactone (25 μl) at 80° C. The mixture was stirred at 80° C. for 2 hours, after stirring, cooled to room temperature, and the insoluble materials were filtered off. pH of the filtrate was adjusted to about 2 by adding 1N hydrochloric acid. The precipitated solid was collected by filtration, washed with water, and dried to obtain the target compound (8 mg).

reactant | 3-amino-2-(3-hydroxy-2-methylphenyl)-2,5-dihydro-4H-pyrazolo[4,3-c]quinolin-4-one | 100 mg | NC=1N(N=C2C1C(NC=1C=CC=CC21)=O)C2=C(C(=CC=C2)O)C | C17H14N4O2
reactant | sodium hydroxide | 1N, 326 μl | [OH-].[Na+]
solvent | water | 3 ml | O | H2O
product | 3-[3-(3-amino-4-oxo-4,5-dihydro-2H-pyrazolo[4,3-c]quinolin-2-yl)-2-methylphenoxy]propanoic acid | 8 mg | NC=1N(N=C2C1C(NC=1C=CC=CC21)=O)C=2C(=C(OCCC(=O)O)C=CC2)C | C20H18N4O4
